US07012080B2
A mixture of isonipecotamide (1.0 g, 8.0 mmol), 3-methoxy-2,2-dimethylpropanoic acid (Bulletin of the Chemical Society of Japan 2001, 74, 1695–1702, 1.1 g, 8.0 mmol), 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HBTU, 3.3 g, 8.8 mmol) and N,N-diisopropylethylamine (1.5 mL, 8.8 mmol) in N,N-dimethylformamide (8 mL) was stirred at room temperature for 18 h. Water (8 mL) was added and the mixture was extracted with ethyl acetate (20 mL×6). Removal of solvent gave a crude of 1-(3-methoxy-2,2-dimethylpropanoyl)piperidine-4-carboxamide as a brown oil, which was dissolved in tetrahydrofuran (15 mL) and added to a suspension of lithium aluminum hydride (2.26 g, 47.7 mmol) in tetrahydrofuran (15 mL) at 0° C. The mixture was stirred at 40° C. for 3 h and quenched with sodium sulfate decahydrate and potassium fluoride. Filtration through a pad of Celite and concentration of the filtrate gave 925 mg (54%) of the title compound as a colorless oil.

reactant | isonipecotamide | 8.0 mmol, 1.0 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | 3-methoxy-2,2-dimethylpropanoic acid | COCC(C(=O)O)(C)C | C6H12O3
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 8.8 mmol, 3.3 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 8.8 mmol, 1.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | Water | 8 mL | O | H2O
product | 1-(3-methoxy-2,2-dimethylpropanoyl)piperidine-4-carboxamide | COCC(C(=O)N1CCC(CC1)C(=O)N)(C)C | C12H22N2O3
